US07205403B2
Preparation of 2-bromo-N-(4-iodophenyl)acetamide
To a solution of 4-iodoaniline (14.5 mmol) in anhydrous dichloromethane at 0° C. was added a-bromo-acetylbromide (1.4 mL) and triethylamine (15 mmol). The mixture was warmed to room temperature, stirred for 1 h, the solvent removed, and residue dissolved in 5% hydrochloric acid. The aqueous solution was extracted with ethyl acetate, the organic layer washed with brine, dried (Na2SO4), filtered, and evaporated. The solid residue was purified by recrystallization form ethyl acetate to afford the desired intermediate.

reactant | 4-iodoaniline | 14.5 mmol | IC1=CC=C(N)C=C1 | C6H6IN
reactant | a-bromo-acetylbromide | 1.4 mL | BrCC(=O)Br | C2H2Br2O
reactant | triethylamine | 15 mmol | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | ClCCl | CH2Cl2
product | 2-bromo-N-(4-iodophenyl)acetamide | Yield: 60% | BrCC(=O)NC1=CC=C(C=C1)I | C8H7BrINO
